US03943154
17.5 g p-toluenesulfinyl chloride (obtained by treating sodium toluenesulfinate.2H2O with thionyl chloride) is dissolved in 100 ml of acetone and this solution is added at room temperature and with stirring to a solution of 20.8 g (0.1 mol) of 2-cyanovinyl 4-aminophenyl sulfone in 250 ml of acetone. Shortly thereafter a solution of 11.2 g (0.1 mol) of 1,4-diazabicyclo[2.2.2]octane in 150 ml of acetone is added over about 10 minutes and the reaction mixture is stirred for another 20 minutes. The reaction mixture is filtered, evaporated in air to about a third of its volume, and then poured into cold water. The precipitate is filtered, washed and dried to give 3-[4-(4-methylbenzenesulfinamido)benzenesulfonyl]acrylonitrile: ##SPC45##

reactant | p-toluenesulfinyl chloride | 17.5 g | C1(=CC=C(C=C1)S(=O)Cl)C | C7H7ClOS
reactant | 2-cyanovinyl 4-aminophenyl sulfone | 0.1 mol, 20.8 g | NC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C9H8N2O2S
reactant | 1,4-diazabicyclo[2.2.2]octane | 0.1 mol, 11.2 g | N12CCN(CC1)CC2 | C6H12N2
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 250 ml | CC(=O)C | C3H6O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 3-[4-(4-methylbenzenesulfinamido)benzenesulfonyl]acrylonitrile | CC1=CC=C(C=C1)S(=O)NC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C16H14N2O3S2
